US08383821B2
tert-Butyl 4-(((4′-fluoro-5-hydroxybiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
tert-Butyl 4-(((5-bromo-4′-fluorobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (0.47 g, 0.85 mmol) was dissolved in dry tetrahydrofuran (5 mL) and stirred at room temperature for 15 min. The stirred mixture was cooled to −78° C. and treated with a solution of n-butyllithium (1.6 M in hexanes, 0.61 mL, 0.98 mmol) over several minutes. After 30 min, the mixture was treated with trimethylborate (0.28 mL, 2.55 mmol). The reaction mixture was stirred at 78° C. for 1 h, then allowed to warm to room temperature over several hours. The mixture was cooled to 0° C. and treated with a 10 N sodium hydroxide solution (60 μL) and hydrogen peroxide (30% in water, 0.44 mL, 3.9 mmol). The reaction was warmed to room temperature over several hours and then treated with saturated ammonium chloride. The reaction was diluted with ethyl acetate. The layers were separated and the organic layer washed with brine (2×), dried over sodium sulfate, filtered, and concentrated. Flash chromatography on silica gel (30% ethyl acetate/hexanes) afforded 280 mg (67%). 1H-NMR (CDCl3, 500 MHz) δ 7.38-7.43 (m, 2H), 7.19-7.35 (m, 5H), 7.02-7.09 (m, 2H), 6.86-6.88 (m, 1H), 6.79 (s, 1H), 6.46 (s, 1H), 4.33 (s, 2H), 3.70-3.74 (m, 2H), 3.38 (s, 2H), 2.98-3.07 (m, 2H), 2.13-2.17 (m, 2H), 1.83-1.92 (m, 2H), 1.41 (s, 9H). Mass spec.: 492.41 (MH)+.

reactant | tert-Butyl 4-(((5-bromo-4′-fluorobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.85 mmol, 0.47 g | BrC=1C=C(C=C(C1)C1=CC=C(C=C1)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C30H33BrFNO3
reactant | n-butyllithium | 0.98 mmol, 1.6 M, 0.61 mL | C(CCC)[Li]
reactant | trimethylborate | 2.55 mmol, 0.28 mL | COB(OC)OC | C3H9BO3
reactant | sodium hydroxide | 10 N, 60 μL | [OH-].[Na+]
reactant | hydrogen peroxide | 3.9 mmol, 0.44 mL | OO | H2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(((4′-fluoro-5-hydroxybiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | FC1=CC=C(C=C1)C1=CC(=CC(=C1)O)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C30H34FNO4
